US05891871
Methyl 2-(2-Furoyl)-4,5-methylenedioxyphenylacetate
The title compound was prepared from methyl 3,4-methylenedioxyphenylacetate (336 mg, 1.73 mmol) in CH2Cl2 (10 mL), SnCl4 (1.0M solution in CH2Cl2 ; 2.8 mL, 2.8 mmol) and 2-furoyl chloride (200 μL, 1.92 mmol) as a solid (120 mg, 52% yield at 46% conversion). 1H NMR (CDCl3) 7.68 (brs, 1H), 7.17 (s, 1H), 7.11 (d, 1H, J=3.5), 6.83 (s, 1H), 6.57 (m, 1H), 6.06 (s, 2H), 3.78 (s, 2H), 3.64 (s, 3H).

reactant | methyl 3,4-methylenedioxyphenylacetate | 1.73 mmol, 336 mg | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | SnCl4 | 2.8 mmol, 1.0M, 2.8 mL | Cl[Sn](Cl)(Cl)Cl
reactant | 2-furoyl chloride | 1.92 mmol, 200 μL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-(2-Furoyl)-4,5-methylenedioxyphenylacetate | 52% yield | O1C(=CC=C1)C(=O)C1=C(C=C2C(=C1)OCO2)CC(=O)OC | C15H12O6
